US07915443B2
(S)-Ethyl 1-[(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetyl]piperidine-3-carboxylate
In a manner similar to that described in Example 534, (S)-Ethyl(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetate and ethyl nipecotate were reacted to give the title compound.

reactant | (S)-Ethyl(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetate | C(C)[C@@H](C(=O)[O-])S(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)C1=CC=CC=C1
reactant | ethyl nipecotate | N1CC(C(=O)OCC)CCC1 | C8H15NO2
product | (S)-Ethyl 1-[(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetyl]piperidine-3-carboxylate | CC1=C(OC=C1)C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=S(=O)(C1=CC=CC=C1)CC(=O)N1C[C@H](CCC1)C(=O)OCC | C36H34N4O7S
